US05202351
To 430 mg (2.0 mmol) of 2,4,6-trimethoxybenzoic acid, were added 10 ml of toluene, 0.52 ml (3.38 mmol) of triethylamine and 0.73 ml (3.40 mmol) of diphenylphosphoryl azide, and the mixture was stirred at 100° C. for one hour. After cooling the mixture to room temperature, 5 ml of a toluene solution containing 520 mg (2.2 mmol) of 2-(2,3-methylenedioxyphenyl)heptylamine was added and the mixture was stirred at room temperature over night. The reaction mixture was subjected to purification by silica-gel column chromatography and recrystallization from a mixed solvent of hexane and ethyl acetate to obtain 360 mg of 1-(2-(2,3-methylenedioxyphenyl)heptyl)-3-(2,4,6-trimethoxyphenyl)urea (Yield: 42.1%).

reactant | 2,4,6-trimethoxybenzoic acid | 2.0 mmol, 430 mg | COC1=C(C(=O)O)C(=CC(=C1)OC)OC | C10H12O5
reactant | triethylamine | 3.38 mmol, 0.52 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 3.40 mmol, 0.73 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-(2,3-methylenedioxyphenyl)heptylamine | 2.2 mmol, 520 mg | C1OC2=C(C=CC=C2O1)C(CN)CCCCC | C14H21NO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-(2,3-methylenedioxyphenyl)heptyl)-3-(2,4,6-trimethoxyphenyl)urea | 360 mg, Yield: 42.1% | C1OC2=C(C=CC=C2O1)C(CNC(=O)NC1=C(C=C(C=C1OC)OC)OC)CCCCC | C24H32N2O6
